US04198419
A solution of 14.9 g of 1-methyl-4-cyano-4-[2-(4-chlorophenylthio)phenyl]piperidine, Example 1, in 75 ml of chloroform is added dropwise to a rapidly stirring mixture of 30.4 g of potassium carbonate and 7.6 g of cyanogen bromide in 80 ml of chloroform. After total addition, the reaction mixture is refluxed for 16 hours and then successively, filtered, washed thrice with 150 ml portions of water, washed once with 50 ml saturated sodium chloride solution and dried. The residue is dissolved in chloroform and the chloroform solution is chromatographed (silica gel F60, ether as eluant). The purified material is recrystallized from acetone to give 4-[2-(4-chlorophenylthio)phenyl]-1,4-dicyanopiperidine.

reactant | 1-methyl-4-cyano-4-[2-(4-chlorophenylthio)phenyl]piperidine | 14.9 g | CN1CCC(CC1)(C1=C(C=CC=C1)SC1=CC=C(C=C1)Cl)C#N | C19H19ClN2S
reactant | potassium carbonate | 30.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyanogen bromide | 7.6 g | N#CBr | CBrN
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[2-(4-chlorophenylthio)phenyl]-1,4-dicyanopiperidine | ClC1=CC=C(C=C1)SC1=C(C=CC=C1)C1(CCN(CC1)C#N)C#N | C19H16ClN3S
